* C:\Users\German\Documents\placa_prueba_bq24780s\Simulaciones\modulo_descarga\modulo_descarga_sziklai.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N005 N007 VCC 0 N006 LMX58_LM2904
V2 VCC 0 12
Rs N008 0 100m
Vbat N001 0 2
Q1 N004 P001 N008 0 2N2222
V1 N003 0 PULSE(0 3 0.3m 1n 1n 9m 10m 10)
Q2 N008 N004 N001 0 TIP36C
R1 N001 N004 100
R3 N007 N008 9.1k
C1 N006 N007 1n
R4 P001 N006 1k
R5 N005 0 10k
R6 N003 N005 91k
.model NPN NPN
.model PNP PNP
.lib C:\Users\German\AppData\Local\LTspice\lib\cmp\standard.bjt
.inc lmx58_lm2904.lib
.tran 0 1200u 0
* .ac dec 1000 1 100Meg
.lib CSD17308Q3.lib
* .dc Vref 0 0.3 10m
.MODEL tip35c npn (
+IS=7.88586e-11 BF=256.257 NF=0.951481 VAF=25.9112
+IKF=6.91656 ISE=6.4e-12 NE=3.4 BR=4.49993
+NR=1.08286 VAR=4.40924 IKR=3.69854
+ISC=3.9e-13 NC=3.99 RB=20.929 IRB=0.1 RBM=0.135255
+RE=0.000998231 RC=0.0563125 XTB=0.1 XTI=1
+EG=1.10826 CJE=1e-07 VJE=0.421306 MJE=0.693953
+TF=1e-08 XTF=1.35777 VTF=1.00063 ITF=0.9994
+CJC=5e-10 VJC=0.400277 MJC=0.409924 XCJC=0.803124
+FC=0.720291 CJS=0 VJS=0.75 MJS=0.5
+TR=4.99888e-07 PTF=0 KF=0 AF=1)
.MODEL tip36c pnp(
+IS=7.88586e-11 BF=256.257 NF=0.951481 VAF=25.9112
+IKF=6.91657 ISE=6.4e-12 NE=3.4 BR=4.49993
+NR=1.08286 VAR=4.40924 IKR=3.69854 ISC=3.9e-13
+NC=3.99 RB=20.929 IRB=0.1 RBM=0.135255
+RE=0.000998231 RC=0.0563123 XTB=0.1 XTI=1
+EG=1.10826 CJE=1e-07 VJE=0.4 MJE=0.735975
+TF=1e-08 XTF=1.35769 VTF=1 ITF=0.99952
+CJC=5e-10 VJC=0.400257 MJC=0.409987 XCJC=0.80312
+FC=0.724857 CJS=0 VJS=0.75 MJS=0.5
+TR=2.03153e-07 PTF=0 KF=0 AF=1)
.backanno
.end
